US04409018
4'-Chloro-2'-fluoro-2-morpholino-2-cyclohexene-1-thiocarboxanilide
In 400 ml of chloroform was dissolved 78.9 g of 4-chloro-2-fluorophenyl isothiocyanate, and 68.6 g of 1-morpholino-1-cyclohexene was added dropwise to the solution with stirring over a 10-minute period. After stirring was continued at room temperature for 10 hours, the reaction mixture was concentrated under reduced pressure, and the residue was treated with a small amount of cold ethanol. The resulting crystals were collected by filtration, and there was obtained 127.9 g (yield of 86%) of the subject compound, m.p. 86°-88° C.

reactant | 4-chloro-2-fluorophenyl isothiocyanate | 78.9 g | ClC1=CC(=C(C=C1)N=C=S)F | C7H3ClFNS
reactant | 1-morpholino-1-cyclohexene | 68.6 g | O1CCN(CC1)C1=CCCCC1 | C10H17NO
solvent | chloroform | 400 ml | C(Cl)(Cl)Cl | CHCl3
product | 4'-Chloro-2'-fluoro-2-morpholino-2-cyclohexene-1-thiocarboxanilide | 127.9 g, yield of 86% | ClC1=CC(=C(NC(=S)C2C(=CCCC2)N2CCOCC2)C=C1)F | C17H20ClFN2OS
